US08236826B2
Production of 4-(4-{4-[4-(3,4-dichlorobenzoylamino)-2-fluorophenoxy]phenyl}-4-hydroxybutyryl)morpholine
To a suspension of 4-(4-{4-[4-(3,4-dichlorobenzoylamino)-2-fluorophenoxy]phenyl}-4-oxobutyryl)morpholine (1.00 g, 1.83 mmol) in THF (20 mL) and methanol (5 mL) was added sodium borohydride (0.0694 g, 1.83 mmol), and the resulting solution was stirred for 1 hour at room temperature. To this reaction solution were added water and saturated aqueous ammonium chloride, and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, evaporated, and the residue was purified by silica gel column chromatography (dichloromethane:methanol=30:1). The obtained solid was recrystallized from water-containing isopropanol, to thereby yield 0.850 g of the title compound.

reactant | 4-(4-{4-[4-(3,4-dichlorobenzoylamino)-2-fluorophenoxy]phenyl}-4-oxobutyryl)morpholine | 1.83 mmol, 1.00 g | ClC=1C=C(C(=O)NC2=CC(=C(OC3=CC=C(C=C3)C(CCC(=O)N3CCOCC3)=O)C=C2)F)C=CC1Cl | C27H23Cl2FN2O5
reactant | sodium borohydride | 1.83 mmol, 0.0694 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 4-(4-{4-[4-(3,4-dichlorobenzoylamino)-2-fluorophenoxy]phenyl}-4-hydroxybutyryl)morpholine | ClC=1C=C(C(=O)NC2=CC(=C(OC3=CC=C(C=C3)C(CCC(=O)N3CCOCC3)O)C=C2)F)C=CC1Cl | C27H25Cl2FN2O5
